US03969404
A process for the preparation of 2-methoxy-3,6-dichloro-benzoic acid comprising the steps of catalytically debrominating 2-hydroxy-5-bromo-3,6-dichloro-benzyl alcohol to produce 2-hydroxy-3,6-dichloro-benzyl alcohol, methylating said 2-hydroxy-3,6 -dichloro-benzyl alcohol at the 2-hydroxy group to produce 2-methoxy-3,6-dichloro-benzyl alcohol, oxidizing said 2-methoxy-3,6-dichloro-benzyl alcohol to produce 2-methoxy-3,6-dichloro-benzoic acid, and recovering said 2-methoxy-3,6-dichloro-benzoic acid.

reactant | 2-methoxy-3,6-dichloro-benzoic acid | COC1=C(C(=O)O)C(=CC=C1Cl)Cl | C8H6Cl2O3
reactant | 2-hydroxy-5-bromo-3,6-dichloro-benzyl alcohol | OC1=C(CO)C(=C(C=C1Cl)Br)Cl | C7H5BrCl2O2
product | 2-hydroxy-3,6-dichloro-benzyl alcohol | OC1=C(CO)C(=CC=C1Cl)Cl | C7H6Cl2O2
